US07485722B2
5-Chloromethyl-3-(3-fluoro-phenyl)-[1,2,4]oxadiazole
3-Fluoro-N-hydroxy-benzamidine (1.4 g, 9.08 mmol), chloroacetic acid (0.94 g, 9.99 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (1.91 g, 9.99 mmol) and 1-hydroxybenzotriazole hydrate (1.35 g, 9.99 mmol) were mixed in N,N-dimethylformamide (15 mL). The reaction mixture was stirred at room temperature overnight. The reaction mixture was diluted with ethyl acetate (50 mL), washed with water (50 mL), washed with aqueous saturated sodium bicarbonate (75 mL), washed with water again (50 mL) and washed with brine (50 mL). The organic phase was dried over sodium sulfate and concentrated to give a solid. The solid was dissolved in N,N-dimethylformamide (10 mL) and the reaction mixture stirred at 120° C. for 1.5 hours. The reaction mixture was cooled to room temperature, diluted with ethyl acetate (100 mL), washed with water (3×50 mL) and washed with brine (50 mL). The organic phase was dried over sodium sulfate and concentrated. The residue was purified on silica gel eluting with 10 to 30% ethyl acetate in hexanes to give the product as a yellow oil (1.15 g, 60%). 1H NMR (300 MHz, CDCl3): δ 7.91 (dd, 1H), 7.82 (m, 1H), 7.5 (m, 1H), 7.25 (m, 1H), 4.78 (s, 2H).

reactant | 3-Fluoro-N-hydroxy-benzamidine | 9.08 mmol, 1.4 g | FC=1C=C(C(=N)NO)C=CC1 | C7H7FN2O
reactant | chloroacetic acid | 9.99 mmol, 0.94 g | ClCC(=O)O | C2H3ClO2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 9.99 mmol, 1.91 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole hydrate | 9.99 mmol, 1.35 g | O.ON1N=NC2=C1C=CC=C2
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 5-Chloromethyl-3-(3-fluoro-phenyl)-[1,2,4]oxadiazole | 1.15 g, 60% | ClCC1=NC(=NO1)C1=CC(=CC=C1)F | C9H6ClFN2O
